US05312752
Sucrose density gradients (8-30%) were prepared in TT buffer containing 0.4 M KCl. In some experiments (as indicated) the gradients were made 8-30% in TT buffer containing 10% glycerol with or without 0.4 M KCl. Samples to be analyzed were layered on the gradient together with 14C-labelled sedimentation markers. The gradients were centrifuged at 50,000 rpm in an SW60 rotor for 18 h at 2° C. Gradients were fractionated into individual 0.1 ml fractions, scintillation fluid was added, and radioactivity counted.

reactant | KCl | 0.4 M | [Cl-].[K+]
reactant | KCl | 0.4 M | [Cl-].[K+]
reactant | glycerol | OCC(O)CO | C3H8O3
product | Sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
